US05273999
A 2.0 g (5.26 mmol) sample of (E)-4-[3-[(5-hydroxypentyl)oxy]-4-(3-methoxy-3-oxo-1-propenyl)phenoxy]butanoic acid methyl ester was hydrogenated in 100 mL of 1:1 methanol-ethyl acetate, over 0.1 g of 10% palladium on carbon, at room temperature and 1 atmosphere. 2-[(5-Hydroxypentyl)oxy]-4-(4-methoxy-4-oxobutoxy)benzenepropanoic acid methyl ester, an oil, was isolated by filtration of the catalyst and concentration of the filtrate, in quantitative yield.

reactant | (E)-4-[3-[(5-hydroxypentyl)oxy]-4-(3-methoxy-3-oxo-1-propenyl)phenoxy]butanoic acid methyl ester | COC(CCCOC1=CC(=C(C=C1)\C=C\C(=O)OC)OCCCCCO)=O | C20H28O7
solvent | methanol ethyl acetate | 100 mL | CO.C(C)(=O)OCC
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
product | 2-[(5-Hydroxypentyl)oxy]-4-(4-methoxy-4-oxobutoxy)benzenepropanoic acid methyl ester | quantitative yield | COC(CCC1=C(C=C(C=C1)OCCCC(=O)OC)OCCCCCO)=O | C20H30O7
